US06294112B1
A solution of 4-morpholino-2-naphthol (1.5 g, 6.5 mmol) and 1(4-morpholinophenyl)-1-phenylprop-2-yn-1-ol (1.92 g, 6.5 mmol) in toluene (65 cm3) containing acidic alumina (Brockmann 1), (4.0 g) was refluxed for 60 minutes. The cooled solution was filtered and the alumina was washed well with EtOAc (200 cm3). Removal of the solvent from the filtrate gave an oil which solidified on standing at room temperature. Recrystallisation from EtOAc/hexane gave 6-morpholino-3(4-morpholinophenyl)-3-phenyl-3H-naphtho[2,1-b]pyran (yield=2.4 g, theoretical yield=3.3 g 73%, m.p.=187-188° C. (uncorrected), λmax in toluene=469 nm, i.e. red-orange).

reactant | 4-morpholino-2-naphthol | 6.5 mmol, 1.5 g | O1CCN(CC1)C1=CC(=CC2=CC=CC=C12)O | C14H15NO2
reactant | 1(4-morpholinophenyl)-1-phenylprop-2-yn-1-ol | 6.5 mmol, 1.92 g | O1CCN(CC1)C1=CC=C(C=C1)C(C#C)(O)C1=CC=CC=C1 | C19H19NO2
solvent | toluene | 65 cm3 | C1(=CC=CC=C1)C | C7H8
product | 6-morpholino-3(4-morpholinophenyl)-3-phenyl-3H-naphtho[2,1-b]pyran | yield=2.4 g, 73% | O1CCN(CC1)C1=CC=2OC(C=CC2C2=CC=CC=C12)(C1=CC=CC=C1)C1=CC=C(C=C1)N1CCOCC1 | C33H32N2O3
